US08304037B2
Sodium hydroxide (75.9 g) was added to a water (400 ml) solution of 4-bromo-2,3-difluorophenol (T-1) (195.0 g), bromoethane (196.2 g) and tetrabutylammonium bromide (hereinafter abbreviated as TBAB) (24.2 g), and the mixture was heated at 80° C. for 6 hours with stirring under an atmosphere of nitrogen. After the reaction had been completed, the reaction mixture was extracted with heptane and the organic layer was washed successively with water and brine, and dried over anhydrous magnesium sulfate. The extract was concentrated under reduced pressure to give a black oil. The oil was purified by distillation to give 1-ethoxy-2,3-difluorobromobenzene (T-2) (230.0 g, 97% yield) as a colorless oil.

reactant | Sodium hydroxide | 75.9 g | [OH-].[Na+]
reactant | 4-bromo-2,3-difluorophenol | 195.0 g | BrC1=C(C(=C(C=C1)O)F)F | C6H3BrF2O
reactant | bromoethane | 196.2 g | BrCC | C2H5Br
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 400 ml | O | H2O
product | 1-ethoxy-2,3-difluorobromobenzene | 230.0 g, 97% yield | C(C)OC1=C(C(=C(C=C1)Br)F)F | C8H7BrF2O
